US05399568
1-((9R,10R)-2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(2-dimethylsulfamoyl-5-methoxyphenylmethyl)piperidine.
Using a procedure similar to that described in Example 55a, except starting with (9R,10R)-2-chloro-9,10-dihydro-9,10-methanoanthracenecarboxylic acid, prepared as described in Example 2a, and 4-(2-dimethylsulfamoyl-5-methoxyphenylmethyl) piperidine, prepared as described in Example 58e, the title compound was obtained as a white solid (617 mg, 1.09 mmol, 57%)

reactant | (9R,10R)-2-chloro-9,10-dihydro-9,10-methanoanthracenecarboxylic acid | ClC1=C(C=2[C@H]3C4=CC=CC=C4[C@H](C2C=C1)C3)C(=O)O | C16H11ClO2
reactant | 4-(2-dimethylsulfamoyl-5-methoxyphenylmethyl) piperidine | CN(S(=O)(=O)C1=C(C=C(C=C1)OC)CC1CCNCC1)C | C15H24N2O3S
product | 1-((9R,10R)-2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylmethyl)-4-(2-dimethylsulfamoyl-5-methoxyphenylmethyl)piperidine | ClC1=CC=2[C@@]3(C4=CC=CC=C4[C@H](C2C=C1)C3)CN3CCC(CC3)CC3=C(C=CC(=C3)OC)S(N(C)C)(=O)=O | C31H35ClN2O3S
